US08871796B2
Ethyl hydrazine oxalate (4.01 g, 26.7 mmol, 1.50 equiv) was added to a solution of ethyl 3-(3-cyanophenyl)prop-2-ynoate (3.55 g, 17.8 mmol, 1 equiv) and triethylamine (3.73 mL, 26.7 mmol, 1.50 equiv) in ethanol (180 mL). The reaction mixture was heated to 80° C. for 3.5 hours, then cooled to 22° C. The cooled reaction mixture was concentrated by rotary evaporation, and the residue was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium chloride solution, and the washed solution was dried over sodium sulfate. The dried solution was filtered, and the filtrate was concentrated to afford 3-(2-ethyl-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)benzonitrile (3.5 g, 3:1 mixture of regioisomers in favor of desired product). The mixture of regioisomers was used without separating in the next step. Calcd (M+1)+: 214.1. Found: 214.1.

reactant | Ethyl hydrazine oxalate | 26.7 mmol, 4.01 g, 1.50 equiv | C(C(=O)O)(=O)O.C(C)NN
reactant | ethyl 3-(3-cyanophenyl)prop-2-ynoate | 17.8 mmol, 3.55 g, 1 equiv | C(#N)C=1C=C(C=CC1)C#CC(=O)OCC | C12H9NO2
reactant | triethylamine | 26.7 mmol, 3.73 mL, 1.50 equiv | C(C)N(CC)CC | C6H15N
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | 3-(2-ethyl-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)benzonitrile | 3.5 g | C(C)N1NC(C=C1C=1C=C(C#N)C=CC1)=O | C12H11N3O
